US04126689
to a stirred and warm (40° C.) mixture of 5 parts of N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide, 5 parts of sodium carbonate, a few crystals of potassium iodide and 200 parts of n.butanol is added 3.75 parts of bromocyclopentane and the whole is stirred and refluxed for 21h.30. Then a second portion of 5 parts of bromocyclopentane is added and stirring at reflux temperature is continued for another 30 hours. The reaction mixture is cooled, filtered and the filtrate is evaporated. The oily residue solidifies on triturating in 1,1'-oxybisethane. The solid product is filtered off and crystallized from 1,1'-oxybisethane, yielding 1.1 parts of N-(4-chlorophenyl)-N-(1-cyclopentyl-4-piperidinyl)benzeneacetamide; mp. 139.5° C.

reactant | N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide | ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCNCC1 | C19H21ClN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | bromocyclopentane | BrC1CCCC1 | C5H9Br
solvent | butanol | C(CCC)O | C4H10O
product | N-(4-chlorophenyl)-N-(1-cyclopentyl-4-piperidinyl)benzeneacetamide | ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCN(CC1)C1CCCC1 | C24H29ClN2O
